US07423052B2
Description 17 (RS)-2-Hydrazinocarbonylmethyl-piperidine-1-carboxylic acid tert butyl ester
2-Methoxycarbonylmethyl-piperidine-1-carboxylic acid tert butyl ester (8.14 g) in ethanol (150 ml) was treated with hydrazine hydrate (19 ml) and the mixture boiled for 16 h. Solvent was removed at reduced pressure and the residue azeotroped with toluene to give the title compound (8.34 g)

reactant | 2-Methoxycarbonylmethyl-piperidine-1-carboxylic acid tert butyl ester | 8.14 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)OC | C13H23NO4
reactant | hydrazine hydrate | 19 ml | O.NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | (RS)-2-Hydrazinocarbonylmethyl-piperidine-1-carboxylic acid tert butyl ester | 8.34 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)NN | C12H23N3O3
